US07323466B2
(R)-2-(3-Chloro-4-methylsulfanyl-benzyl)-morpholine
The solution of 0.4 g (1.6 mmol) (R)-1-chloro-3-(3-chloro-4-methylsulfanyl-phenyl)-propan-2-ol in 1.4 mL methanol was treated with a solution of 0.39 g (1.0 mmol) sodium hydroxide in 0.7 mL water and 0.92 g (6.5 mmol) 2-aminoethyl hydrogen sulfate. The reaction was warmed to 45° C. and stirred for 2.5 h. After the addition of 0.42 g (10.5 mmol) solid sodium hydroxide and 7 mL toluene the reaction temperature was raised to 65° C. After 4 h the reaction mixture was poured on water and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was chromatographed using MPLC and dichloromethane: methanol: ammonia (9:1:0.1 v/v) as eluant to give the compound as a light brown oil (38%).

reactant | (R)-1-chloro-3-(3-chloro-4-methylsulfanyl-phenyl)-propan-2-ol | 1.6 mmol, 0.4 g | ClC[C@@H](CC1=CC(=C(C=C1)SC)Cl)O | C10H12Cl2OS
reactant | sodium hydroxide | 1.0 mmol, 0.39 g | [OH-].[Na+]
reactant | 2-aminoethyl hydrogen sulfate | 6.5 mmol, 0.92 g | S(=O)(=O)(OCCN)O | C2H7NO4S
reactant | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 1.4 mL | CO | CH4O
solvent | water | 0.7 mL | O | H2O
product | (R)-2-(3-Chloro-4-methylsulfanyl-benzyl)-morpholine | 38% | ClC=1C=C(C[C@@H]2CNCCO2)C=CC1SC | C12H16ClNOS
